US08980897B2
24.2: Methyl (S)-3-amino-2-[4-(2-methylpropene-1-sulfonyl)piperazin-1-yl]propanoate dihydrochloride
In a manner analogous to example 3.3, using 785 mg (1.9 mmol) of methyl (S)-3-tert-butoxycarbonylamino-2-[4-(2-methylpropane-1-sulfonyl)piperazin-1-yl]propanoate, 621 mg (85%) of methyl (S)-3-amino-2-[4-(2-methylpropane-1-sulfonyl)piperazin-1-yl]propanoate dihydrochloride are obtained in the form of a solid.

reactant | methyl (S)-3-tert-butoxycarbonylamino-2-[4-(2-methylpropane-1-sulfonyl)piperazin-1-yl]propanoate | 1.9 mmol, 785 mg | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)CC(C)C | C17H33N3O6S
reactant | methyl (S)-3-amino-2-[4-(2-methylpropane-1-sulfonyl)piperazin-1-yl]propanoate dihydrochloride | 621 mg | Cl.Cl.NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)CC(C)C
product | Methyl (S)-3-amino-2-[4-(2-methylpropene-1-sulfonyl)piperazin-1-yl]propanoate dihydrochloride | Cl.Cl.NC[C@@H](C(=O)OC)N1CCN(CC1)S(=O)(=O)C=C(C)C | InChI=1S/C12H23N3O4S.2ClH/c1-10(2)9-20(17,18)15-6-4-14(5-7-15)11(8-13)12(16)19-3;;/h9,11H,4-8,13H2,1-3H3;2*1H/t11-;;/m0../s1
